US07375227B2
357A. 1-(2-Chloroethyl)-3-quinolin-4-yl-urea
To a solution of 4-aminoquinoline (3.46 g, 24 mmol) in dry THF is added chloroethylisocyanate (3.1 mL, 36 mmol). The reaction mixture is stirred for 18 h. MeOH (10 mL) is added, and stirring is continued for an additional hour. The reaction mixture is evaporated, and partitioned between DCM and aqueous 5% citric acid (150 mL). The aqueous layer is carefully adjusted to pH 9 with solid NaHCO3. The precipitate is filtered, washed with H2O (5×20 mL) and Et2O (2×20 mL), and dried in vacuo at 45° C. to provide the title compound.

reactant | 4-aminoquinoline | 24 mmol, 3.46 g | NC1=CC=NC2=CC=CC=C12 | C9H8N2
reactant | chloroethylisocyanate | 36 mmol, 3.1 mL | ClCCN=C=O | C3H4ClNO
reactant | MeOH | 10 mL | CO | CH4O
solvent | THF | C1CCOC1 | C4H8O
product | 1-(2-Chloroethyl)-3-quinolin-4-yl-urea | ClCCNC(=O)NC1=CC=NC2=CC=CC=C12 | C12H12ClN3O
